US05420133
Preparation of Methyl 2-(2,6-Dipropyl-4-Hydroxymethyl-Phenoxy)Phenylacetate
To a solution of 1.014 g (4.87 mmol) of 2,6-di-propyl-4-hydroxymethylphenol dissolved in 10 mL of anhydrous dimethylformamide was added 2.379 g of cesium carbonate and the reaction mixture was stirred under a nitrogen atmosphere at room temperature for 1 hour. A solution of methyl cx-bromo-phenylacetate dissolved in 2 mL DMF was added and the reaction mixture was stirred at 60° C. overnight. The reaction mixture was cooled to room temperature and partitioned between water and EtOAc. The organic layer was washed with brine, separated, dried (MgSO4), filtered and evaporated. The residual oil was purified on a silica gel flash chromatography column eluted with 20% EtOAc-hexane and combination of the purified fractions afforded 0.598 g (35%) of the title compound.

reactant | 2,6-di-propyl-4-hydroxymethylphenol | 4.87 mmol, 1.014 g | C(CC)C1=C(C(=CC(=C1)CO)CCC)O | C13H20O2
reactant | cesium carbonate | 2.379 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
product | Methyl 2-(2,6-Dipropyl-4-Hydroxymethyl-Phenoxy)Phenylacetate | 0.598 g, 35% | C(CC)C1=C(OC2=C(C=CC=C2)CC(=O)OC)C(=CC(=C1)CO)CCC | C22H28O4
